US06897231B2
SYNTHESIS OF [3-(4-FLUOROPHENYL)(1H-INDAZOL-5-YL)]-N-[2-(1-METHYLIMIDAZOL-5-YL)ETHYL]CARBOXAMIDE)
The product was synthesized as described in Example 109 using 1-acetyl-3-(4-fluorophenyl)-1H-indazole-5-carbonyl chloride (142.5 mg, 0.45 mmol) and 3-methylhistamine 100 mg, 0.5 mmol). The product was purified by semipreparative HPLC (20-80% acetonitrile gradient over 30 minutes at 20 mL/min) to yield the title compound (52 mg, 32% yield). 1H NMR (DMSO-d6) δ 8.85 (s, 1H), 8.5 (s, 1H), 8.05 (m, 2H), 7.9 (d, 1H), 7.7 (d, 1H), 7.4 (m, 3H), 3.9 (s, 3H), 3.6 (m, 2H), 3.0 (m, 2H). ES-MS m/z 364 [M+1]+.

reactant | 1-acetyl-3-(4-fluorophenyl)-1H-indazole-5-carbonyl chloride | 0.45 mmol, 142.5 mg | C(C)(=O)N1N=C(C2=CC(=CC=C12)C(=O)Cl)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | 3-methylhistamine | 0.5 mmol, 100 mg | CN1C=NC=C1CCN | C6H11N3
product | [3-(4-FLUOROPHENYL)(1H-INDAZOL-5-YL)]-N-[2-(1-METHYLIMIDAZOL-5-YL)ETHYL]CARBOXAMIDE | 52 mg, 32% yield | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C(=O)NCCC1=CN=CN1C | C20H18FN5O
